US07169789B2
N-(4-{[6-Methoxy-7-(2-methoxyethoxy)-4-quinolyl]oxy}-2,5-dimethylphenyl)-N′-(2-methoxyphenyl)-urea
N-(4-{[7-(Benzyloxy)-6-methoxy-4-quinolyl]oxy}-2,5-dimethylphenyl)-N′-(2-methoxyphenyl)urea (363 mg) was dissolved in N,N-dimethylformamide (6 ml), and palladium hydroxide (363 mg) was added to the solution. The mixture was stirred in a hydrogen atmosphere at room temperature overnight. The solvent was removed by distillation under the reduced pressure, and the residue was dissolved in chloroform and methanol. The solution was filtered through Celite. Next, the solvent was removed by distillation under the reduced pressure. The residue (191 mg), potassium carbonate (110 mg), tetra-n-butylammonium iodide (12 mg), and 2-bromoethyl methyl ether (80 mg) were dissolved in N,N-dimethylformamide (5 ml), and the solution was stirred at 70° C. overnight. The solvent was removed by distillation under the reduced pressure. Water was added to the residue, and the mixture was extracted with chloroform. The chloroform layer was dried over sodium sulfate. The solvent was removed by distillation under the reduced pressure. The residue was purified by thin-layer chromatography on silica gel by development with chloroform/methanol (10/1) to give 128 mg (yield 76%) of the title compound.

reactant | N-(4-{[7-(Benzyloxy)-6-methoxy-4-quinolyl]oxy}-2,5-dimethylphenyl)-N′-(2-methoxyphenyl)urea | 363 mg | C(C1=CC=CC=C1)OC1=C(C=C2C(=CC=NC2=C1)OC1=CC(=C(C=C1C)NC(=O)NC1=C(C=CC=C1)OC)C)OC | C33H31N3O5
reactant | hydrogen | [H][H] | H2
reactant | N,N-dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
catalyst | palladium hydroxide | 363 mg | [OH-].[Pd+2].[OH-]
product | N-(4-{[6-Methoxy-7-(2-methoxyethoxy)-4-quinolyl]oxy}-2,5-dimethylphenyl)-N′-(2-methoxyphenyl)-urea | 128 mg, yield 76% | COC=1C=C2C(=CC=NC2=CC1OCCOC)OC1=CC(=C(C=C1C)NC(=O)NC1=C(C=CC=C1)OC)C | C29H31N3O6
